US07884110B2
4-Chloro-N-[5-chloro-2-(7-methyl-7H-pyrrolo[2,3-d]pyrimidine-4-carbonyl)-pyridin-3-yl]-3-trifluoromethyl-benzenesulfonamide
Prepared from 227 mg (0.45 mmol) of 5-chloro-3-[(4-chloro-3-trifluoromethyl-benzenesulfonyl)-methoxymethyl-amino]-pyridine-2-carboxylic acid methoxy-methyl-amide, 129 mg (0.45 mmol) of 90% 4-iodo-7-methyl-7H-pyrrolo[2,3-d]pyrimidine dissolved in 2 mL THF with 0.23 mL of 2 M isopropylmagnesium chloride solution in THF added. All of the resulting intermediate ketone (80 mg) was used in the second step with 2 mL ethanol and 2 mL 6N hydrochloric acid mixture to give after purification 45 mg of the final product as a yellow solid.

reactant | 5-chloro-3-[(4-chloro-3-trifluoromethyl-benzenesulfonyl)-methoxymethyl-amino]-pyridine-2-carboxylic acid methoxy-methyl-amide | 0.45 mmol, 227 mg | CON(C(=O)C1=NC=C(C=C1N(COC)S(=O)(=O)C1=CC(=C(C=C1)Cl)C(F)(F)F)Cl)C | C17H16Cl2F3N3O5S
reactant | 4-iodo-7-methyl-7H-pyrrolo[2,3-d]pyrimidine | 0.45 mmol, 129 mg | IC=1C2=C(N=CN1)N(C=C2)C | C7H6IN3
reactant | ethanol | 2 mL | C(C)O | C2H6O
reactant | hydrochloric acid | 6N, 2 mL | Cl | ClH
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | isopropylmagnesium chloride | 2 M, 0.23 mL | C(C)(C)[Mg]Cl
product | 4-Chloro-N-[5-chloro-2-(7-methyl-7H-pyrrolo[2,3-d]pyrimidine-4-carbonyl)-pyridin-3-yl]-3-trifluoromethyl-benzenesulfonamide | ClC1=C(C=C(C=C1)S(=O)(=O)NC=1C(=NC=C(C1)Cl)C(=O)C=1C2=C(N=CN1)N(C=C2)C)C(F)(F)F | C20H12Cl2F3N5O3S
